US05831115
(1S,2S,3S,4S)-3-Methoxycarbonyl-4-[N-{(2S,3R)-4-(3,4-dichlorophenyl)-3-(2-naphthoyloxy)-2-butyl}aminocarbonyl]cyclobutane-1,2-dicarboxylic acid
To a suspension of (1S,2R)-3-(3,4-dichlorophenyl)-1-methyl-2-(2-naphthoyloxy)propylamine hydrochloride (42.5 mg, 0.10 mmol), prepared by the procedures described in European Patent Application EP 611749, published Aug. 24, 1994, and incorporated herein by reference, 1,2,3,4-cyclobutanetetracarboxylic dianhydride (100 mg, 0.50 mmol) in 1:1 etheracetonitrile (10 mL) at -78° C. was added triethylamine (15 mg, 0.15 mmol). The reaction mixture was allowed to warm to 22° C. overnight and then cooled with an ice-water bath. Diazomethane in ether was added to it until the solution remained slightly yellow. Formic acid (0.5 mL) was added immediately, followed by ethyl acetate (60 mL) and water (5 mL). The organic layer was washed with water (5 mL) and brine (5 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated. The crude product was purified with column chromatography eluting with ethyl acetate (80 mL), followed by 95:5:1 ethyl acetate-methanol-formic acid to give the title compound (51.3 mg). The proton NMR showed about a 1:1 ratio of rotomers. 1H NMR (300 MHz, DMSO-D6) δ 8.59, 8.55 (s, 1H), 8.37, 8.27 (d, 1H), 8.16-7.89 (m, 4H), 7.70-7.45 (m, 3H), 7.25 (t, 1H), 5.33 & 5.19 (m, 1H), 4.10 (m, 1H), 3.62 (s, 3H), 3.57-3.45 (m, 3H), 3.35 (m, 1H), 3.08 (m, 1H), 2.97 (m, 1H), 1.09, 1.07 (s, 3H). MS (FAB+) m/e 616 [35Cl, M+H]+.

reactant | (1S,2R)-3-(3,4-dichlorophenyl)-1-methyl-2-(2-naphthoyloxy)propylamine hydrochloride | 0.10 mmol, 42.5 mg | Cl.ClC=1C=C(C=CC1Cl)C[C@H]([C@H](C)N)OC(=O)C1=CC2=CC=CC=C2C=C1
reactant | 1,2,3,4-cyclobutanetetracarboxylic dianhydride | 0.50 mmol, 100 mg | C12C(C3C1C(=O)OC3=O)C(=O)OC2=O | C8H4O6
reactant | triethylamine | 0.15 mmol, 15 mg | C(C)N(CC)CC | C6H15N
reactant | Diazomethane | [N+](=[N-])=C | CH2N2
reactant | water | 5 mL | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
solvent | Formic acid | 0.5 mL | C(=O)O | CH2O2
product | (1S,2S,3S,4S)-3-Methoxycarbonyl-4-[N-{(2S,3R)-4-(3,4-dichlorophenyl)-3-(2-naphthoyloxy)-2-butyl}aminocarbonyl]cyclobutane-1,2-dicarboxylic acid | 51.3 mg | COC(=O)[C@@H]1[C@H]([C@H]([C@@H]1C(=O)N[C@@H](C)[C@@H](CC1=CC(=C(C=C1)Cl)Cl)OC(=O)C1=CC2=CC=CC=C2C=C1)C(=O)O)C(=O)O | C30H27Cl2NO9
